US04279905
Dimethylamine is introduced while stirring into a boiling solution of 52.8 g (0.3 mole) 2,3,4,5-tetrahydro-1-benzoxepin-3,5-dione and a spatula tip of p-toluene sulfonic acid in 225 ml toluene. The water of reaction is separated by a water separator. After the reaction has ended, the solution is concentrated, the remaining residue is filtered under suction and recrystallized from chloroform/ether. 42 g (69% of the theoretical yield) of 3-dimethylamino-1-benzoxepin-5(2H)-one are obtained. This compound displays a melting point of 136-136° C.

reactant | Dimethylamine | CNC | C2H7N
reactant | 2,3,4,5-tetrahydro-1-benzoxepin-3,5-dione | 0.3 mole, 52.8 g | O1CC(CC(C2=C1C=CC=C2)=O)=O | C10H8O3
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 225 ml | C1(=CC=CC=C1)C | C7H8
product | 3-dimethylamino-1-benzoxepin-5(2H)-one | CN(C=1COC2=C(C(C1)=O)C=CC=C2)C | C12H13NO2
